US07259171B2
F) [α-(p-Toluenesulfonyl)-2,6-difluorobenzyl]isonitrile
To a mixture of N-[(2,6-Difluoro-phenyl)-(toluene-4-sulfonyl)-methyl]-formamide (2.07 g, 6.36 mmol) and THF (15 mL) is added phosphorous oxychloride (POCl3) (1.19 mL, 12.7 mmol) over a period of 5 minutes, and the resulting mixture stirred at room temperature for 10 minutes. The reaction is then cooled to 4° C. using an ice/water bath and 2,6-lutidine (4.45 mL, 38.2 mmol) is added over 30 minutes, maintaining the temperature less than 12° C. The cooling bath is removed and the mixture stirred at room temperature for 18 hours. The reaction mixture is poured into a stirred, ice water cooled solution of ice and saturated aqueous sodium bicarbonate (NaHCO3). The mixture is extracted with ethyl acetate (2×). The combined organic extracts are washed with 1N aqueous hydrochloric acid (30.0 mL), saturated aqueous sodium bicarbonate (NaHCO3) (30.0 mL), brine (30.0 mL) and dried (MgSO4). The solvents are removed in vacuo, and isopropanol (18.0 mL) is added to the residual brownish solid. The resulting slurry is stirred at room temperature for 2 hours, then water is added and the slurry stirred for an additional 30 minutes at room temperature. The slurry is filtered, the cake washed with 2:1 isopropanol-water (2×) and dried in a vacuum-oven (30° C.) for 48 hours. The title compound may be obtained as a tan solid (1.33 g, 68%).

reactant | N-[(2,6-Difluoro-phenyl)-(toluene-4-sulfonyl)-methyl]-formamide | 6.36 mmol, 2.07 g | FC1=C(C(=CC=C1)F)C(NC=O)S(=O)(=O)C1=CC=C(C=C1)C | C15H13F2NO3S
reactant | phosphorous oxychloride | 12.7 mmol, 1.19 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-lutidine | 38.2 mmol, 4.45 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [α-(p-Toluenesulfonyl)-2,6-difluorobenzyl]isonitrile | C1(=CC=C(C=C1)S(=O)(=O)C(C1=C(C=CC=C1F)F)[N+]#[C-])C | C15H11F2NO2S
